US05278326
Step A: Preparation of β-oxo-1-phenylcyclopentanepropanoic acid ethyl ester
The title compound was prepared from 1-phenyl-1-cyclopentanecarboxylic acid (50.0 g, 0.220 mol), 1,1'-carbonyldiimidazole (43.0 g, 0.265 mol), magnesium chloride (40.0 g, 0.418 mol), ethyl potassium malonate (60.0 g, 0.352 mol), and triethylamine (48.9 g, 0.484 mol) using the procedure described in Example 3, Step A.

reactant | 1-phenyl-1-cyclopentanecarboxylic acid | 0.220 mol, 50.0 g | C1(=CC=CC=C1)C1(CCCC1)C(=O)O | C12H14O2
reactant | 1,1'-carbonyldiimidazole | 0.265 mol, 43.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium chloride | 0.418 mol, 40.0 g | [Cl-].[Mg+2].[Cl-]
reactant | ethyl potassium malonate | 0.352 mol, 60.0 g | C(CC(=O)O)(=O)O.C(C)[K]
reactant | triethylamine | 0.484 mol, 48.9 g | C(C)N(CC)CC | C6H15N
product | β-oxo-1-phenylcyclopentanepropanoic acid ethyl ester | C(C)OC(CC(C1(CCCC1)C1=CC=CC=C1)=O)=O | C16H20O3
